### PR TITLE
[Merged by Bors] - Prove that the diameter of a Euclidean ball is twice its radius.

### PR DESCRIPTION
**Pull request by Vilin97**
feat(Analysis/InnerProductSpace/EuclideanDist): prove that the diameter of a sphere and a ball is twice its radius
 
All lemmas and theorems: `Metric.diam_sphere_eq`, `Metric.diam_closedBall_eq'`, `Metric.diam_ball_eq`. Also, fold a `variable` declaration inside `convexHull_sphere_eq_closedBall`.

@Aristotle-Harmonic gave the initial version of the proofs (with many `aesop`s and using v4.24). Leo Mayer and I restructured and cleaned them up.

Co-authored-by: Leo Mayer leomayer@uw.edu and @Aristotle-Harmonic
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 1]
```diff
@@ -119,3 +119,55 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+lemma image_closedBall_eq_metric_closedBall (x : G) (r : ℝ) :
+  toEuclidean '' Euclidean.closedBall x r = Metric.closedBall (toEuclidean x) r := by
+  simp only [Euclidean.closedBall, Euclidean.dist]
+  apply Set.eq_of_subset_of_subset
+  · rw [image_subset_iff]
+    rfl
+  · intro y hy
+    refine ⟨(toEuclidean.symm y), ?_, ?_⟩
+    · simp_all [Metric.mem_closedBall, mem_setOf_eq, ContinuousLinearEquiv.apply_symm_apply]
+    · apply ContinuousLinearEquiv.apply_symm_apply
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
    toEuclidean '' Euclidean.closedBall x r = Metric.closedBall (toEuclidean x) r := by
  apply Set.eq_of_subset_of_subset (image_subset_iff.eq ▸ subset_rfl) fun y hy ↦ ?_
  refine ⟨toEuclidean.symm y, ?_, ContinuousLinearEquiv.apply_symm_apply _ _⟩
  simpa [Euclidean.closedBall, Euclidean.dist]
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 2]
```diff
@@ -119,3 +119,55 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    · intro b _ hnb
+      simp only [PiLp.add_apply, EuclideanSpace.single_apply, hnb, ↓reduceIte, add_zero,
+        PiLp.sub_apply, sub_zero, sub_self, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true,
+        zero_pow, x₁, x₂]
+    · simp only [Finset.mem_univ, not_true_eq_false, ne_eq, OfNat.ofNat_ne_zero,
+      not_false_eq_true, pow_eq_zero_iff, IsEmpty.forall_iff]
+
+/-- The diameter of a closed Euclidean ball is twice its radius. -/
+theorem diam_closed_ball_eq_two_mul_radius [Nontrivial G] (x : G) (r : ℝ) (hr : 0 ≤ r) :
+  Metric.diam (toEuclidean '' (Euclidean.closedBall x r)) = 2 * r := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
    Metric.diam (toEuclidean '' (Euclidean.closedBall x r)) = 2 * r := by
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 3]
```diff
@@ -119,3 +119,55 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+  apply Set.eq_of_subset_of_subset
+  · rw [image_subset_iff]
+    rfl
+  · intro y hy
+    refine ⟨(toEuclidean.symm y), ?_, ?_⟩
+    · simp_all [Metric.mem_closedBall, mem_setOf_eq, ContinuousLinearEquiv.apply_symm_apply]
+    · apply ContinuousLinearEquiv.apply_symm_apply
+
+lemma diam_closed_ball_eq_two_mul_radius' [Nontrivial G] (x : G) (r : ℝ) (hr : 0 ≤ r) :
+  Metric.diam (Metric.closedBall (toEuclidean x) r) = 2 * r := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
    Metric.diam (Metric.closedBall (toEuclidean x) r) = 2 * r := by
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 4]
```diff
@@ -119,3 +119,50 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
   exacts [(toEuclidean (E := G)).contDiff.comp hf,
     (toEuclidean (E := G)).contDiff.comp hg, fun x => toEuclidean.injective.ne (h x)]
+
+lemma image_closedBall_eq_metric_closedBall (x : G) (r : ℝ) :
+    toEuclidean '' Euclidean.closedBall x r = Metric.closedBall (toEuclidean x) r := by
+  apply Set.eq_of_subset_of_subset (image_subset_iff.eq ▸ subset_rfl) fun y hy ↦ ?_
+  refine ⟨toEuclidean.symm y, ?_, ContinuousLinearEquiv.apply_symm_apply _ _⟩
+  simpa [Euclidean.closedBall, Euclidean.dist]
+
+lemma diam_closed_ball_eq_two_mul_radius' [Nontrivial G] (x : G) (r : ℝ) (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
lemma diam_closedBall_eq_two_mul_radius' [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 5]
```diff
@@ -119,3 +119,50 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+      linarith
+    · intro b _ hnb
+      simp only [PiLp.add_apply, EuclideanSpace.single_apply, hnb, ↓reduceIte, add_zero,
+        PiLp.sub_apply, sub_zero, sub_self, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true,
+        zero_pow, x₁, x₂]
+    · simp only [Finset.mem_univ, not_true_eq_false, ne_eq, OfNat.ofNat_ne_zero,
+      not_false_eq_true, pow_eq_zero_iff, IsEmpty.forall_iff]
+
+/-- The diameter of a closed Euclidean ball is twice its radius. -/
+theorem diam_closed_ball_eq_two_mul_radius [Nontrivial G] (x : G) (r : ℝ) (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
theorem diam_closedBall_eq_two_mul_radius [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 6]
```diff
@@ -119,3 +119,50 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    Metric.diam (toEuclidean '' (Euclidean.closedBall x r)) = 2 * r := by
+  rw [image_closedBall_eq_metric_closedBall, diam_closed_ball_eq_two_mul_radius' x r hr]
+
+/-- The diameter of an open Euclidean ball is twice its radius. -/
+theorem diam_ball_eq_two_mul_radius [Nontrivial G] (x : G) (r : ℝ) (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
theorem diam_ball_eq_two_mul_radius [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 7]
```diff
@@ -119,3 +119,50 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩]
+    · simp_all only [PiLp.add_apply, EuclideanSpace.single_apply, ↓reduceIte, PiLp.sub_apply,
+        add_sub_sub_cancel, nonneg_add_self_iff, Real.sqrt_sq, x₁, x₂]
+      linarith
+    · intro b _ hnb
+      simp only [PiLp.add_apply, EuclideanSpace.single_apply, hnb, ↓reduceIte, add_zero,
+        PiLp.sub_apply, sub_zero, sub_self, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true,
+        zero_pow, x₁, x₂]
+    · simp only [Finset.mem_univ, not_true_eq_false, ne_eq, OfNat.ofNat_ne_zero,
+      not_false_eq_true, pow_eq_zero_iff, IsEmpty.forall_iff]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
  · simp [EuclideanSpace.norm_eq, hr, x₂]
  · norm_num [dist_eq_norm, EuclideanSpace.norm_eq]
    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩]
    · simp [hr, x₁, x₂, ← two_mul]
    · intro b _ hnb
      simp [hnb, x₁, x₂]
    · simp
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 8]
```diff
@@ -119,3 +119,50 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+
+/-- The diameter of an open Euclidean ball is twice its radius. -/
+theorem diam_ball_eq_two_mul_radius [Nontrivial G] (x : G) (r : ℝ) (hr : 0 ≤ r) :
+    Metric.diam (toEuclidean '' (Euclidean.ball x r)) = 2 * r := by
+  simp only [Euclidean.ball_eq_preimage, image_preimage_eq_inter_range, EquivLike.range_eq_univ,
+    inter_univ, ← diam_closed_ball_eq_two_mul_radius x r hr, Euclidean.closedBall_eq_preimage]
+  by_cases hr : r = 0
+  · simp only [hr, Metric.ball_zero, Metric.diam_empty, Metric.closedBall_zero,
+    Metric.diam_singleton]
+  · rw [Metric.diam, Metric.diam, ←_root_.closure_ball _ hr, EMetric.diam_closure]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
  by_cases hr : r = 0 <;> simp [← _root_.closure_ball, hr]
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean (hunk 7 above)
Comment (Vilin97) [reply Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: @themathqueen , thank you for the review. For my own education, how do you golf the code? Do you use a tool or clever workflow, or do you just stare at it and think very hard?

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: With practice. You can always golf by testing, for example, changing `simp only` to `simp` and deleting lemma names and seeing what happens.

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 9]
```diff
@@ -119,3 +119,39 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
   apply ContDiff.dist ℝ
   exacts [(toEuclidean (E := G)).contDiff.comp hf,
     (toEuclidean (E := G)).contDiff.comp hg, fun x => toEuclidean.injective.ne (h x)]
+
+lemma image_closedBall_eq_metric_closedBall (x : G) (r : ℝ) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: I think this would be a more appropriate name?
```suggestion
lemma Euclidean.image_closedBall_eq_metricClosedBall (x : G) (r : ℝ) :
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 10]
```diff
@@ -119,3 +119,39 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    toEuclidean '' Euclidean.closedBall x r = Metric.closedBall (toEuclidean x) r := by
+  apply Set.eq_of_subset_of_subset (image_subset_iff.eq ▸ subset_rfl) fun y hy ↦ ?_
+  refine ⟨toEuclidean.symm y, ?_, ContinuousLinearEquiv.apply_symm_apply _ _⟩
+  simpa [Euclidean.closedBall, Euclidean.dist]
+
+lemma diam_closedBall_eq_two_mul_radius' [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
+    Metric.diam (Metric.closedBall (toEuclidean x) r) = 2 * r := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: Maybe this is a better name?
```suggestion
lemma Metric.diam_closedBall_toEuclidean [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
    diam (closedBall (toEuclidean x) r) = 2 * r := by
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 11]
```diff
@@ -119,3 +119,39 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+  · exact Metric.isBounded_closedBall
+  · rw [Metric.mem_closedBall, dist_self_add_left,
+      EuclideanSpace.norm_single, Real.norm_eq_abs, abs_of_nonneg hr]
+  · simp [EuclideanSpace.norm_eq, hr, x₂]
+  · norm_num [dist_eq_norm, EuclideanSpace.norm_eq]
+    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩]
+    · simp [hr, x₁, x₂, ← two_mul]
+    · intro b _ hnb
+      simp [hnb, x₁, x₂]
+    · simp
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: More compact this way:
```suggestion
  refine le_trans ?_ (dist_le_diam_of_mem (x := x₁) (y := x₂) isBounded_closedBall ?_ ?_)
  · simp_rw [dist_eq_norm, EuclideanSpace.norm_eq, PiLp.sub_apply, Real.norm_eq_abs, sq_abs]
    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩ ((by simp_all [x₁, x₂])) (by simp)]
    simp [hr, x₁, x₂, ← two_mul]
  · simp [x₁, abs_of_nonneg, hr]
  · simp [EuclideanSpace.norm_eq, hr, x₂]
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 12]
```diff
@@ -119,3 +119,39 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+
+/-- The diameter of a closed Euclidean ball is twice its radius. -/
+theorem diam_closedBall_eq_two_mul_radius [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: better name?
```suggestion
theorem Metric.diam_image_EuclideanClosedBall [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 13]
```diff
@@ -119,3 +119,39 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    Metric.diam (toEuclidean '' (Euclidean.closedBall x r)) = 2 * r := by
+  rw [image_closedBall_eq_metric_closedBall, diam_closedBall_eq_two_mul_radius' x hr]
+
+/-- The diameter of an open Euclidean ball is twice its radius. -/
+theorem diam_ball_eq_two_mul_radius [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: better name?
```suggestion
theorem Metric.diam_image_EuclideanBall [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
```

**Review by themathqueen — COMMENTED** [review]
Also, maybe add Aristotle as a co-author since it provided the initial proofs?

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean (hunk 7 above)
Comment (Vilin97) [reply Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: I had actually previously changed all `simp`s into `simp only`s.

Terminal `simp`s are fine but non-terminal aren't, right? Because of performance or another reason?

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 14]
```diff
@@ -119,3 +119,33 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+  simpa [Euclidean.closedBall, Euclidean.dist]
+
+lemma Metric.diam_closedBall_toEuclidean [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
+    diam (closedBall (toEuclidean x) r) = 2 * r := by
+  apply le_antisymm (Metric.diam_closedBall hr)
+  let x₁ := (toEuclidean x) + EuclideanSpace.single ⟨0, Module.finrank_pos⟩ r
+  let x₂ := (toEuclidean x) - EuclideanSpace.single ⟨0, Module.finrank_pos⟩ r
+  refine le_trans ?_ (dist_le_diam_of_mem (x := x₁) (y := x₂) isBounded_closedBall ?_ ?_)
+  · simp_rw [dist_eq_norm, EuclideanSpace.norm_eq, PiLp.sub_apply, Real.norm_eq_abs, sq_abs]
+    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩ ((by simp_all [x₁, x₂])) (by simp)]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
  let x₁ := toEuclidean x + EuclideanSpace.single ⟨0, Module.finrank_pos⟩ r
  let x₂ := toEuclidean x - EuclideanSpace.single ⟨0, Module.finrank_pos⟩ r
  refine le_trans ?_ (dist_le_diam_of_mem (x := x₁) (y := x₂) isBounded_closedBall ?_ ?_)
  · simp_rw [dist_eq_norm, EuclideanSpace.norm_eq, PiLp.sub_apply, Real.norm_eq_abs, sq_abs]
    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩ (by simp_all [x₁, x₂]) (by simp)]
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 15]
```diff
@@ -119,3 +119,33 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    simp [hr, x₁, x₂, ← two_mul]
+  · simp [x₁, abs_of_nonneg, hr]
+  · simp [EuclideanSpace.norm_eq, hr, x₂]
+
+/-- The diameter of a closed Euclidean ball is twice its radius. -/
+theorem Metric.diam_image_EuclideanClosedBall [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
+    Metric.diam (toEuclidean '' (Euclidean.closedBall x r)) = 2 * r := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
theorem Metric.diam_image_euclideanClosedBall [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
    diam (toEuclidean '' Euclidean.closedBall x r) = 2 * r := by
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 16]
```diff
@@ -119,3 +119,33 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+  rw [Euclidean.image_closedBall_eq_metricClosedBall x r, Metric.diam_closedBall_toEuclidean x hr]
+
+/-- The diameter of an open Euclidean ball is twice its radius. -/
+theorem Metric.diam_image_EuclideanBall [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
+    Metric.diam (toEuclidean '' (Euclidean.ball x r)) = 2 * r := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
theorem Metric.diam_image_euclideanBall [Nontrivial G] (x : G) {r : ℝ} (hr : 0 ≤ r) :
    diam (toEuclidean '' Euclidean.ball x r) = 2 * r := by
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 17]
```diff
@@ -119,3 +119,33 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
   apply ContDiff.dist ℝ
   exacts [(toEuclidean (E := G)).contDiff.comp hf,
     (toEuclidean (E := G)).contDiff.comp hg, fun x => toEuclidean.injective.ne (h x)]
+
+lemma Euclidean.image_closedBall_eq_metricClosedBall (x : G) (r : ℝ) :
+    toEuclidean '' Euclidean.closedBall x r = Metric.closedBall (toEuclidean x) r := by
+  apply Set.eq_of_subset_of_subset (image_subset_iff.eq ▸ subset_rfl) fun y hy ↦ ?_
+  refine ⟨toEuclidean.symm y, ?_, ContinuousLinearEquiv.apply_symm_apply _ _⟩
+  simpa [Euclidean.closedBall, Euclidean.dist]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]:
```suggestion
    toEuclidean '' closedBall x r = Metric.closedBall (toEuclidean x) r := by
  apply Set.eq_of_subset_of_subset (image_subset_iff.eq ▸ subset_rfl) fun y hy ↦ ?_
  refine ⟨toEuclidean.symm y, ?_, ContinuousLinearEquiv.apply_symm_apply _ _⟩
  simpa [closedBall, dist]
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean (hunk 7 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: Yes, it's usually best to avoid non-terminal `simp`s. But I think terminal `simp`s are better than `simp only`s.

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 18]
```diff
@@ -119,3 +119,33 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
   apply ContDiff.dist ℝ
   exacts [(toEuclidean (E := G)).contDiff.comp hf,
     (toEuclidean (E := G)).contDiff.comp hg, fun x => toEuclidean.injective.ne (h x)]
+
+lemma Euclidean.image_closedBall_eq_metricClosedBall (x : G) (r : ℝ) :
+    toEuclidean '' closedBall x r = Metric.closedBall (toEuclidean x) r := by
+  apply Set.eq_of_subset_of_subset (image_subset_iff.eq ▸ subset_rfl) fun y hy ↦ ?_
+  refine ⟨toEuclidean.symm y, ?_, ContinuousLinearEquiv.apply_symm_apply _ _⟩
+  simpa [closedBall, dist]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: This can have a one-line proof, but it doesn't matter because all of this is not in the right generality. the one-line proof is:
```
  simpa using congr(toEuclidean '' $(Euclidean.closedBall_eq_image x r))
```

File: Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean [hunk 19]
```diff
@@ -119,3 +119,33 @@ theorem ContDiff.euclidean_dist (hf : ContDiff ℝ n f) (hg : ContDiff ℝ n g)
...
+    diam (closedBall (toEuclidean x) r) = 2 * r := by
+  apply le_antisymm (diam_closedBall hr)
+  let x₁ := toEuclidean x + EuclideanSpace.single ⟨0, Module.finrank_pos⟩ r
+  let x₂ := toEuclidean x - EuclideanSpace.single ⟨0, Module.finrank_pos⟩ r
+  refine le_trans ?_ (dist_le_diam_of_mem (x := x₁) (y := x₂) isBounded_closedBall ?_ ?_)
+  · simp_rw [dist_eq_norm, EuclideanSpace.norm_eq, PiLp.sub_apply, Real.norm_eq_abs, sq_abs]
+    rw [Finset.sum_eq_single ⟨0, Module.finrank_pos⟩ (by simp_all [x₁, x₂]) (by simp)]
+    simp [hr, x₁, x₂, ← two_mul]
+  · simp [x₁, abs_of_nonneg, hr]
+  · simp [EuclideanSpace.norm_eq, hr, x₂]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: So, the issue is that this:

1. Has nothing fundamental to do with Euclidean spaces
2. Has nothing fundamental to do with finite dimensionality
3. ~~Is about `Euclidean.closedBall` as opposed to `Metric.closedBall` which is (for good reason) hardly ever used.~~ Sorry, I misread that.

Here's a proof of this fact in general nontrivial real normed spaces for spheres and closed and open balls. Transform this PR to be about that instead. 

```lean
lemma Metric.diam_sphere_eq (x : G) {r : ℝ} (hr : 0 ≤ r) :
    diam (sphere x r) = 2 * r := by
  apply le_antisymm
    (diam_mono sphere_subset_closedBall isBounded_closedBall |>.trans <| diam_closedBall hr)
  obtain ⟨y, hy⟩ := exists_ne (0 : G)
  rw [← norm_ne_zero_iff] at hy
  calc
    2 * r = dist (x + r • ‖y‖⁻¹ • y) (x - r • ‖y‖⁻¹ • y) := by
      simp [dist_eq_norm, ← two_nsmul, ← smul_assoc, norm_smul, abs_of_nonneg hr, mul_assoc, hy]
    _ ≤ diam (sphere x r) := by
      apply dist_le_diam_of_mem isBounded_sphere <;> simp [norm_smul, hy, abs_of_nonneg hr]

lemma Metric.diam_closedBall_eq (x : G) {r : ℝ} (hr : 0 ≤ r) :
    diam (closedBall x r) = 2 * r :=
  le_antisymm (diam_closedBall hr) <|
    diam_sphere_eq x hr |>.symm.le.trans <| diam_mono sphere_subset_closedBall isBounded_closedBall

lemma Metric.diam_ball_eq (x : G) {r : ℝ} (hr : 0 < r) :
    diam (ball x r) = 2 * r := by
  rw [← diam_closure, closure_ball _ hr.ne', diam_closedBall_eq _ hr.le]
```

Comment (Vilin97) [reply Mathlib/Analysis/InnerProductSpace/EuclideanDist.lean]: Thank you. 
I followed your suggestion. I hope I picked the correct locations of these lemmas.

File: Mathlib/Analysis/Normed/Module/Convex.lean [hunk 20]
```diff
@@ -66,10 +66,19 @@ theorem convex_ball (a : E) (r : ℝ) : Convex ℝ (Metric.ball a r) := by
...
+variable {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F] [Nontrivial F]
+
+lemma Metric.diam_closedBall_eq (x : F) {r : ℝ} (hr : 0 ≤ r) :
+    diam (closedBall x r) = 2 * r :=
+  le_antisymm (diam_closedBall hr) <|
+    diam_sphere_eq x hr |>.symm.le.trans <| diam_mono sphere_subset_closedBall isBounded_closedBall
+
+lemma Metric.diam_ball_eq (x : F) {r : ℝ} (hr : 0 < r) :
+    diam (ball x r) = 2 * r := by
+  rw [← diam_closure, closure_ball _ hr.ne', diam_closedBall_eq _ hr.le]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Convex.lean]:
```suggestion
lemma Metric.diam_ball_eq (x : F) {r : ℝ} (hr : 0 ≤ r) :
    diam (ball x r) = 2 * r := by
  if hr' : r = 0 then simp [hr'] else
  rw [← diam_closure, closure_ball _ hr', diam_closedBall_eq _ hr]
```

File: Mathlib/Analysis/Normed/Module/Basic.lean [hunk 21]
```diff
@@ -113,6 +114,19 @@ instance NormedSpace.discreteTopology_zmultiples
       Int.norm_eq_abs, mul_lt_iff_lt_one_left (norm_pos_iff.mpr he), ← @Int.cast_one ℝ _,
       ← Int.cast_abs, Int.cast_lt, Int.abs_lt_one_iff, smul_eq_zero, or_iff_left he]
 
+lemma Metric.diam_sphere_eq {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [Nontrivial E]
+    (x : E) {r : ℝ} (hr : 0 ≤ r) :
+    diam (sphere x r) = 2 * r := by
+  apply le_antisymm
+    (diam_mono sphere_subset_closedBall isBounded_closedBall |>.trans <| diam_closedBall hr)
+  obtain ⟨y, hy⟩ := exists_ne (0 : E)
+  rw [← norm_ne_zero_iff] at hy
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Basic.lean]:
```suggestion
```

File: Mathlib/Analysis/Normed/Module/Convex.lean [hunk 22]
```diff
@@ -66,10 +66,20 @@ theorem convex_ball (a : E) (r : ℝ) : Convex ℝ (Metric.ball a r) := by
...
+    diam_sphere_eq x hr |>.symm.le.trans <| diam_mono sphere_subset_closedBall isBounded_closedBall
+
+lemma Metric.diam_ball_eq (x : F) {r : ℝ} (hr : 0 ≤ r) :
+    diam (ball x r) = 2 * r := by
+  if hr' : r = 0 then simp [hr'] else
+  rw [← diam_closure, closure_ball _ hr', diam_closedBall_eq _ hr]
 
 open Pointwise in
-theorem convexHull_sphere_eq_closedBall [Nontrivial F] (x : F) {r : ℝ} (hr : 0 ≤ r) :
+theorem convexHull_sphere_eq_closedBall (x : F) {r : ℝ} (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Convex.lean]: I'd keep this hypothesis here and add it to your lemmas instead of grouping it. It's unclear if there is another lemma that uses `F`.
```suggestion
theorem convexHull_sphere_eq_closedBall [Nontrivial F] (x : F) {r : ℝ} (hr : 0 ≤ r) :
```

Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Module/Convex.lean]: ~~yes, please put the `[Nontrivial F]` back where it was.~~

Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Module/Convex.lean]: Actually, can you move this theorem and all yours to the bottom of the file in a new `section NormedAddCommGroup`? It's bad practice for us to have a `variable` declaration in the middle of the file for just these few declarations (although I admit this is not your fault; it was already there).

File: Mathlib/Analysis/Normed/Module/Convex.lean [hunk 23]
```diff
@@ -190,3 +160,47 @@ theorem Eventually.segment_of_prod_nhdsWithin (hy : Tendsto y f (𝓝 x)) (hz :
 end Filter
 
 end SeminormedAddCommGroup
+
+section NormedAddCommGroup
+
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Convex.lean]:
```suggestion
```

**Review by themathqueen — APPROVED** [review]

File: Mathlib/Analysis/Normed/Module/Convex.lean (hunk 23 above)
Comment (Vilin97) [reply Mathlib/Analysis/Normed/Module/Convex.lean]: Didn't @j-loreaux suggest using `section NormedAddCommGroup`?

Comment (themathqueen) [reply Mathlib/Analysis/Normed/Module/Convex.lean]: I wasn't suggesting to remove the section. I was suggesting to remove the line break between the section and the variables.

File: Mathlib/Analysis/Normed/Module/Convex.lean [hunk 24]
```diff
@@ -190,3 +160,43 @@ theorem Eventually.segment_of_prod_nhdsWithin (hy : Tendsto y f (𝓝 x)) (hz :
...
+    grw [h, inv_mul_le_one]
+  have hz : z ∈ U := by
+    apply hU_sub
+    simp_all [norm_smul]
+  have := StarConvex.smul_mem (hU.starConvex zero_mem) hz (by positivity) hr₁
+  rwa [hz_def, ← smul_assoc, smul_eq_mul, ← mul_assoc, mul_comm, mul_comm r⁻¹, mul_assoc _ r⁻¹,
+    inv_mul_cancel₀ hr₀, mul_one, inv_mul_cancel₀ (by simp_all), one_smul] at this
+
+lemma Metric.diam_closedBall_eq (x : F) {r : ℝ} (hr : 0 ≤ r) : diam (closedBall x r) = 2 * r := by
+  simp [← convexHull_sphere_eq_closedBall x hr, convexHull_diam, diam_sphere_eq x hr]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Convex.lean]: I know you wrote this proof because you think its "simpler", but it's not. The fact is that you've just hit a nail with a wrecking ball; in less colorful language, you have used a high-powered theorem to prove a comparatively trivial fact. Note how the `convexHull_sphere_eq_closedBall` theorem was rather a lot of work to prove, but the two theorems on which the previous proof relied were relatively easy.

Note also, by using this theorem you are *forcing* (without someone rewriting the proof) this theorem to stay in this file, whereas the previous proof would have let it live in `Analysis/Normed/Module/Basic.lean` (so it should probably go there instead).

It's a bit sad even that the `ball` version has to live in this file because of `closure_ball`. (EDIT: wait, why did you put these in this file, why not in `Analysis/Normed/Module/RCLike/Real.lean`? It's possible I'm overlooking something I suppose, as I didn't attempt it myself.)

**Review by j-loreaux — COMMENTED** [review]
This review is not intended as criticism or frustration, so please don't read it that way. The only purpose is to inform about matters important to library design (i.e., minimizing use of high-powered theorems to reduce import requirements).

File: Mathlib/Analysis/Normed/Module/Convex.lean (hunk 24 above)
Comment (Vilin97) [reply Mathlib/Analysis/Normed/Module/Convex.lean]: I see, thank you for the explanation. I did not know that we try to avoid using powerful theorems. I reverted to the proof you gave.

Regarding the location, I searched with `#find_home! Metric.diam_ball_eq` and got
```
[Mathlib.Analysis.Normed.Module.Convex, Mathlib.Analysis.Normed.Module.Ball.Pointwise, Mathlib.Analysis.SpecialFunctions.Log.Basic, Mathlib.Analysis.Normed.Module.RieszLemma]
```
I then thought that it makes sense to put it in `Convex` since the ball is the convex hull of the sphere (maybe not the best reason). I don't claim to have a good understand of the logic behind where lemmas go, I try to just guess based on similarity to other lemmas in the files. 

I now moved all three lemmas into `Analysis/Normed/Module/RCLike/Real.lean`. It did require me to add an additional import.

Comment (Vilin97) [reply Mathlib/Analysis/Normed/Module/Convex.lean]: With the new import, I got the scary red `large-import` tag, which I don't love.
Also, thank you for educating me!

File: Mathlib/Analysis/Normed/Module/RCLike/Real.lean [hunk 25]
```diff
@@ -158,4 +159,22 @@ theorem interior_sphere' (x : E) (r : ℝ) : interior (sphere x r) = ∅ := by
...
+    _ ≤ diam (sphere x r) := by
+      apply dist_le_diam_of_mem isBounded_sphere <;> simp [norm_smul, hy, abs_of_nonneg hr]
+
+lemma Metric.diam_closedBall_eq (x : E) {r : ℝ} (hr : 0 ≤ r) : diam (closedBall x r) = 2 * r :=
+  le_antisymm (diam_closedBall hr) <|
+    diam_sphere_eq x hr |>.symm.le.trans <| diam_mono sphere_subset_closedBall isBounded_closedBall
+
+lemma Metric.diam_ball_eq (x : E) {r : ℝ} (hr : 0 ≤ r) : diam (ball x r) = 2 * r := by
+  if hr' : r = 0 then simp [hr'] else
+  rw [← diam_closure, closure_ball _ hr', diam_closedBall_eq _ hr]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/RCLike/Real.lean]: You're right to be concerned about the additional imports. When I had suggested `RCLike.Real` I had not anticipated we would need additional imports. With this proof below, you can move all of these to `Analysis.Normed.Module.Basic`.
```suggestion
  /- This proof could be simplified with `Metric.diam_closure` and `closure_ball`,
  but we opt for this proof to minimize dependencies. -/
  refine le_antisymm (diam_ball hr) <|
    mul_le_of_forall_lt_of_nonneg (by positivity) diam_nonneg fun a ha ha' r' hr' hr'' ↦ ?_
  calc a * r' ≤ 2 * r' := by gcongr
    _ ≤ _ := by simpa only [← Metric.diam_sphere_eq x hr'.le]
      using diam_mono (sphere_subset_ball hr'') isBounded_ball
```

**Review by j-loreaux — COMMENTED** [review]
please also add a comment to the PR description explaining why the other code is moving within the file. Arguably that should be a separate PR, but I'm not going to force it.

File: Mathlib/Analysis/Normed/Module/Convex.lean [hunk 26]
```diff
@@ -66,10 +66,9 @@ theorem convex_ball (a : E) (r : ℝ) : Convex ℝ (Metric.ball a r) := by
 theorem convex_closedBall (a : E) (r : ℝ) : Convex ℝ (Metric.closedBall a r) := by
   simpa only [Metric.closedBall, sep_univ] using (convexOn_univ_dist a).convex_le r
 
-variable {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F]
-
 open Pointwise in
-theorem convexHull_sphere_eq_closedBall [Nontrivial F] (x : F) {r : ℝ} (hr : 0 ≤ r) :
+theorem convexHull_sphere_eq_closedBall {F : Type*}
+    [NormedAddCommGroup F] [NormedSpace ℝ F] [Nontrivial F] (x : F) {r : ℝ} (hr : 0 ≤ r) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Convex.lean]: just a style edit:
```suggestion
theorem convexHull_sphere_eq_closedBall {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F]
    [Nontrivial F] (x : F) {r : ℝ} (hr : 0 ≤ r) :
```
